US04521422
2-Furanyl[7-(3-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone
A mixture of 0.02 mole of 3-chloro-3-(3-pyridinyl)-2-propenal and 0.02 mole of (3-amino-1H-pyrazol-4-yl)-2-furanyl-methanone in 30 ml of glacial acetic acid was refluxed for 5 hours. The solvent was removed in vacuo and the residue partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The dichloromethane layer was dried over sodium sulfate and passed through a short pad of hydrous magnesium silicate. The eluent was concentrated and the residue crystallized from dichloromethane:hexane to give the desired product as crystals, mp 228°-229° C.

reactant | 3-chloro-3-(3-pyridinyl)-2-propenal | 0.02 mole | ClC(=CC=O)C=1C=NC=CC1 | C8H6ClNO
reactant | (3-amino-1H-pyrazol-4-yl)-2-furanyl-methanone | 0.02 mole | NC1=NNC=C1C(=O)C=1OC=CC1 | C8H7N3O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-Furanyl[7-(3-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone | O1C(=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C16H10N4O2
